US05911978
1. Synthesis of Zinc Cysteinate
Basic zinc carbonate (10 g) was added to a solution of cysteine in water (14.92 g/100 ml) and was heated under reflux for 16 h with stirring. The off-white microcrystalline solid was collected by filtration, washed with water and dried in air. The empirical formula for the complex, as determined by thermogravimetric analysis, was; Zn[SCH2CH(NH2)CO2 ]. This empirical formula was confirmed by matching the Fourier transform infra-red spectrum for the product with a reference spectrum for this complex, Shindo and Brown, J.Am.Chem.Soc. 87 (1965) 1904-1909.

reactant | zinc carbonate | 10 g | C([O-])([O-])=O.[Zn+2]
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | water | 100 ml, 14.92 g | O | H2O
product | Zinc Cysteinate | N[C@@H](CS)C(=O)[O-].[Zn+2].N[C@@H](CS)C(=O)[O-] | InChI=1S/2C3H7NO2S.Zn/c2*4-2(1-7)3(5)6;/h2*2,7H,1,4H2,(H,5,6);/q;;+2/p-2/t2*2-;/m00./s1
